US07981903B2
To a solution of 1-{[4-(1-methylethyl)-1-piperazinyl]acetyl}-5-(methyloxy)-6-nitro-2,3-dihydro-1H-indole (0.60 g, 1.66 mmol) in absolute ethanol (100 mL) and DMA (20 mL) was added tin(II)chloride dihydrate (2.24 g, 9.93 mmols) and 1M HCl(1.0 mL). After overnight stirring, reaction was quenched with excess saturated NaHCO3 solution, stirred for one hr, and filtered through celite which was rinsed with methanol. After organic solvent removal, the aqueous layer was extracted with dichloromethane (2×200 mL), organic layers combined, adsorbed to silica gel and purified by column chromatography (DCM to 5% MeOH/DCM+0.1% NH4OH) to afford 1-{[4-(1-methylethyl)-1-piperazinyl]acetyl}-5-(methyloxy)-2,3-dihydro-1H-indol-6-amine. ESIMS (M+H)+=333.

reactant | 1-{[4-(1-methylethyl)-1-piperazinyl]acetyl}-5-(methyloxy)-6-nitro-2,3-dihydro-1H-indole | 1.66 mmol, 0.60 g | CC(C)N1CCN(CC1)CC(=O)N1CCC2=CC(=C(C=C12)[N+](=O)[O-])OC | C18H26N4O4
reactant | tin(II)chloride dihydrate | 9.93 mmols, 2.24 g | O.O.[Sn](Cl)Cl
reactant | HCl | 1M, 1.0 mL | Cl | ClH
solvent | ethanol | 100 mL | C(C)O | C2H6O
solvent | DMA | 20 mL | CC(=O)N(C)C | C4H9NO
product | 1-{[4-(1-methylethyl)-1-piperazinyl]acetyl}-5-(methyloxy)-2,3-dihydro-1H-indol-6-amine | CC(C)N1CCN(CC1)CC(=O)N1CCC2=CC(=C(C=C12)N)OC | C18H28N4O2
